US07678791B2
Step 1: Preparation of 2-Bromo-N-(5-nitro-thiazol-2-yl)-acetamide.
To a stirred solution of 2-amino-5-nitrothiazole (725.7 mg) in ethyl acetate (50 mL) in the presence of saturated sodium carbonate (10 mL) at 0° C., is added bromoacetyl bromide (434.3 uL), and additional bromoacetyl bromide is added to complete the reaction. The organic layer is separated, washed with 3 N HCl solution, followed by brine and dried over sodium sulfate and concentrated in vacuo to give a brown oil. The crude product is purified by silica gel column chromatography (40% ethyl acetate/hexanes) to give a solid (950 mg). ESI MS m/z 266 (M+H+); 1H NMR (400 MHz, CDCl3) δ 8.26 (s, 1H), 3.98 (s, 2H).

reactant | 2-amino-5-nitrothiazole | 725.7 mg | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
reactant | sodium carbonate | 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | bromoacetyl bromide | 434.3 uL | BrCC(=O)Br | C2H2Br2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-N-(5-nitro-thiazol-2-yl)-acetamide | 950 mg | BrCC(=O)NC=1SC(=CN1)[N+](=O)[O-] | C5H4BrN3O3S
